US06258827B1
(3R*,4S*)-6,8-Dimethyl-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chroman-4,7-diol
A mixture of 3-bromo-6,8-dimethyl-7-triisopropylsilyloxychromen-4-one (the compound of Example 19, 0.23 g, 0.54 mmol), 4-(4-fluorophenyl)-4-hydroxypiperidine (0.22 g, 1.12 mmol) and triethylamine (0.3 mL, 2.15 mmol) in acetonitrile (15 mL) was stirred over the weekend at ambient temperature. The precipitate which formed was collected and rinsed with water and ether. This solid was flash chromatographed on silica gel (1×4 inches packed in hexane) with elution proceeding as follows: 10% ethyl acetate/hexane (100 mL), nil; 25% ethyl acetate/hexane (200 mL), 0.065 g (22%) 6,8-dimethyl-7-triisopropylsilyloxy-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chromen-4-one which had: mp 226.5-227° C. Analysis calculated for C31H42FNO4Si: C, 68.98; H, 7.84; N, 2.59. Found: C, 69.00; H, 7.94; N, 2.37. This product was identical to the product isolated in the first step of example 19 and was converted to the title product following the procedure of example 19.

reactant | 3-bromo-6,8-dimethyl-7-triisopropylsilyloxychromen-4-one | BrC1=COC2=C(C(=C(C=C2C1=O)C)O[Si](C(C)C)(C(C)C)C(C)C)C | C20H29BrO3Si
reactant | 4-(4-fluorophenyl)-4-hydroxypiperidine | 1.12 mmol, 0.22 g | FC1=CC=C(C=C1)C1(CCNCC1)O | C11H14FNO
reactant | triethylamine | 2.15 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (3R*,4S*)-6,8-Dimethyl-3-(4-(4-fluorophenyl)-4-hydroxypiperidin-1-yl)-chroman-4,7-diol | CC=1C=C2[C@@H]([C@@H](COC2=C(C1O)C)N1CCC(CC1)(O)C1=CC=C(C=C1)F)O | C22H26FNO4
